US20010049371A1
3-(3-Ethoxy-4-methoxyphenyl)-N-hydroxy-3-(3-dimethylaminophthalimido)-propionamide was prepared by the procedure of Example 1 from 3-(3-ethoxy-4-methoxyphenyl)-3-(3-dimethylaminophthalimido)propanoic acid (0.31 g, 0.75 mmol), carbonyldiimidazole (140 mg, 0.86 mmol) and hydroxylamine hydrochloride (66 mg, 0.95 mmol) in tetrahydrofuran (5 mL) to afford 3-(3-ethoxy-4-methoxyphenyl)-N-hydroxy-3-(3-dimethylaminophthalimido)propionamide as a yellow solid (280 mg, 87% yield): mp, 187.0-188.6° C.; 1H NMR (DMSO-d6) δ1.31 (t, J=7.0 Hz, 3H, CH3), 3.01 (s, 6H, CH3), 3.08 (d, J=7.9 Hz, 2H, CH2), 3.71 (s, 3H, CH3), 3.97 (q, J=6.9 Hz, 2H, CH2), 5.63 (t, J=7.9 Hz, 1H, NCH), 6.88 (br s, 2H, Ar), 7.00 (br s, 1H, Ar), 7.19 (m, 2H, Ar), 7.57 (dd, J=7.1, 8.3 Hz, 1H, Ar), 8.78 (br s, 1H, OH), 10.57 (br s, 1H, NH); 13C NMR (DMSO-d6) δ14.66, 34.42, 42.96, 49.88, 55.45, 63.72, 111.75, 112.41, 112.71, 113.74, 119.63, 122.32, 131.61, 133.94, 134.92, 147.60, 148.43, 149.75, 166.11, 166.76, 167.56; Anal Calcd for C22H25N3O6: C, 61.82; H. 5.89; N. 9.83. Found: C, 61.79; H, 5.90; N, 9.58.

reactant | 3-(3-ethoxy-4-methoxyphenyl)-3-(3-dimethylaminophthalimido)propanoic acid | 0.75 mmol, 0.31 g | C(C)OC=1C=C(C=CC1OC)C(CC(=O)O)N1C(C=2C(C1=O)=C(C=CC2)N(C)C)=O | C22H24N2O6
reactant | carbonyldiimidazole | 0.86 mmol, 140 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | hydroxylamine hydrochloride | 0.95 mmol, 66 mg | Cl.NO
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 3-(3-ethoxy-4-methoxyphenyl)-N-hydroxy-3-(3-dimethylaminophthalimido)propionamide | 280 mg, 87% yield | C(C)OC=1C=C(C=CC1OC)C(CC(=O)NO)N1C(C=2C(C1=O)=C(C=CC2)N(C)C)=O | C22H25N3O6
